US04898945
20.1 g (0.125 mole) of 6-fluoro-2-methylquinoline was added to 25.3 g (0.189 mole) of aluminum chloride at a temperature of 60° C. 19.98 g (0.125 mole) of bromine was added as a gas. The reaction mixture was heated overnight at 80° C. The reaction mixture was then poured onto ice, and 50% aqueous sodium hydroxide was added until the bulk of the solids had dissolved. The mixture was then extracted with toluene. The toluene extract was dried with magnesium sulfate and evaporated under vacuum to give 23 g of 5-bromo-6-fluoro-2-methylquinoline as a light tan solid. The structure was confirmed by nuclear magnetic resonance spectral analysis.

reactant | 6-fluoro-2-methylquinoline | 0.125 mole, 20.1 g | FC=1C=C2C=CC(=NC2=CC1)C | C10H8FN
reactant | aluminum chloride | 0.189 mole, 25.3 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | bromine | 0.125 mole, 19.98 g | BrBr | Br2
reactant | sodium hydroxide | [OH-].[Na+]
product | 5-bromo-6-fluoro-2-methylquinoline | 23 g | BrC1=C2C=CC(=NC2=CC=C1F)C | C10H7BrFN
